US08975398B2
(3S)—N-{4-[1-(cyclopentylacetyl)piperidin-4-yl]phenyl}-1-(pyridin-3-yl)pyrrolidine-3-carboxamide
The title compound was prepared as described in Example 1, substituting (S)-1-((benzyloxy)carbonyl)pyrrolidine-3-carboxylic acid for 1-(benzyloxycarbonyl)azetidine-3-carboxylic acid and tert-butyl 4-(4-aminophenyl)piperidine-1-carboxylate for tert-butyl 4-(4-aminophenoxy)piperidine-1-carboxylate in Example 1A, and cyclopentylbenzoic acid for 2-(tetrahydro-2H-pyran-4-yl)acetic acid in Example 1E. 1H NMR (300 MHz, DMSO-d6) δ ppm 10.03 (s, 1H), 7.95 (d, J=2.8 Hz, 1H), 7.85 (dd, J=4.6, 1.2 Hz, 1H), 7.55 (t, J=10.1 Hz, 2H), 7.16 (dd, J=8.3, 4.3 Hz, 3H), 6.92 (ddd, J=8.4, 2.9, 1.3 Hz, 1H), 4.54 (d, J=12.7 Hz, 1H), 3.98 (d, J=13.7 Hz, 1H), 3.64-3.48 (m, 1H), 3.48-3.38 (m, 1H), 3.22-2.87 (m, 2H), 2.68 (dd, J=24.3, 12.3 Hz, 1H), 2.41-2.01 (m, 6H), 1.77 (s, 4H), 1.68-1.04 (m, 9H); MS (ESI(+)) m/e 461 (M+H)+.

reactant | 1-(benzyloxycarbonyl)azetidine-3-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N1CC(C1)C(=O)O | C12H13NO4
reactant | tert-butyl 4-(4-aminophenyl)piperidine-1-carboxylate | NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O2
reactant | tert-butyl 4-(4-aminophenoxy)piperidine-1-carboxylate | NC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H24N2O3
reactant | cyclopentylbenzoic acid | C1(CCCC1)C1=C(C(=O)O)C=CC=C1 | C12H14O2
reactant | 2-(tetrahydro-2H-pyran-4-yl)acetic acid | O1CCC(CC1)CC(=O)O | C7H12O3
product | (3S)—N-{4-[1-(cyclopentylacetyl)piperidin-4-yl]phenyl}-1-(pyridin-3-yl)pyrrolidine-3-carboxamide | C1(CCCC1)CC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC(=O)[C@@H]1CN(CC1)C=1C=NC=CC1 | C28H36N4O2
